US05308853
Methyl E-4-[[2-butyl-5-[[3-butyl-1-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride
To a solution of methyl E-4-[[2-butyl-5-[[3-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate (0.66 g, 1.5 mmol) in DMF (10 mL) is added K2CO3 (3.0 g, 15 mmol). After stirring for 5 minutes 2-methyl-4-chloromethylthiazole hydrochloride (0.28 g, 1.5 mmol) is added. The mixture is stirred for 16 hours and then filtered. The filtrate is concentrated in vacuo and dissolved in ether (50 mL). This solution is washed with water and dried over K2CO3 and charcoal. The mixture is filtered and allowed to stand in which time the product crystallizes. Petroleum ether is added to complete crystallization.

reactant | methyl E-4-[[2-butyl-5-[[3-butyl-2,5-dioxo-4-imidazolidinylidene)methyl]-1H-imidazol-1-yl]methyl]benzoate | 1.5 mmol, 0.66 g | C(CCC)C=1N(C(=CN1)/C=C\1/N(C(NC1=O)=O)CCCC)CC1=CC=C(C(=O)OC)C=C1 | C24H30N4O4
reactant | K2CO3 | 15 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-4-chloromethylthiazole hydrochloride | 1.5 mmol, 0.28 g | Cl.CC=1SC=C(N1)CCl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl E-4-[[2-butyl-5-[[3-butyl-1-[(2-methyl-4-thiazolyl)methyl]-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride | Cl.Cl.C(CCC)C=1N(C(=CN1)/C=C\1/N(C(N(C1=O)CC=1N=C(SC1)C)=O)CCCC)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C29H35N5O4S.2ClH/c1-5-7-9-26-30-16-24(33(26)17-21-10-12-22(13-11-21)28(36)38-4)15-25-27(35)34(18-23-19-39-20(3)31-23)29(37)32(25)14-8-6-2;;/h10-13,15-16,19H,5-9,14,17-18H2,1-4H3;2*1H/b25-15+;;
